US08309595B2
B) N′-[(3Z)-6-methoxy-1-(2-methoxyethyl)-2-oxo-1,2-dihydro-3H-indol-3-ylidene]benzohydrazide
The title compound was prepared as a yellow solid, using 6-methoxy-1-(2-methoxyethyl)-isatin and benzhydrazide according to the synthetic method NMR (CDCl3): δ 3.35 (s, 3H), 3.65 (t, 2H), 3.87 (s, 3H), 3.94 (t, 2H), 6.64 (d, 1H), 7.58 (t, 1H), 7.79 (d, 1H), 13.93 (br s, 1H).

reactant | 6-methoxy-1-(2-methoxyethyl)-isatin | COC1=CC=C2C(C(N(C2=C1)CCOC)=O)=O | C12H13NO4
reactant | benzhydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
product | N′-[(3Z)-6-methoxy-1-(2-methoxyethyl)-2-oxo-1,2-dihydro-3H-indol-3-ylidene]benzohydrazide | COC1=CC=C2/C(/C(N(C2=C1)CCOC)=O)=N/NC(C1=CC=CC=C1)=O | C19H19N3O4
